US07514473B2
(a) (R)-2-(5-Bromo-2-fluoro-phenoxymethyl)-oxirane
A solution of the crude 5-bromo-2-fluorophenol (4.0 g) prepared using literature procedure [EP0238272] and (2R)-glycidyl 3-nitrobenzenesulfonate (5.37 g) in dry acetone (175 mL) was treated with potassium carbonate (8.58 g) and refluxed under nitrogen for 12 h. The reaction was cooled, filtered and filtrate was concentrated in vacuo and the residue was flash chromatographed (20% ethyl acetate/hexanes) to yield the desired product (4.25 g) in 82% yield. 1H NMR (400 MHz, CDCl3): 7.15-6.96 (m, 3H), 4.33 and 4.30 (dd, 1H), 4.02 and 4.00 (dd, 1H), 3.41-3.37 (m, 1H), 2.97 (m, 1H), 2.78 (m, 1H).

reactant | 5-bromo-2-fluorophenol | 4.0 g | BrC=1C=CC(=C(C1)O)F | C6H4BrFO
reactant | potassium carbonate | 8.58 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 175 mL | CC(=O)C | C3H6O
product | (R)-2-(5-Bromo-2-fluoro-phenoxymethyl)-oxirane | 4.25 g, 82% yield | BrC=1C=CC(=C(OC[C@@H]2OC2)C1)F | C9H8BrFO2
